US06794403B2
Step b) 2,3-Difluoro-4-methoxybenzoic acid
Sodium hydroxide (2N, 50 mL) was added into a mixture of methyl 2,3-difluoro-4-methoxybenzoate (10.0 g, 49.5 mmol), THF (100 mL) and MeOH (100 mL). The mixture was stirred at room temperature for 6 h, and acidified with HCl (2N). The precipitated solid was filtered off, washed with water and dried to give a white solid (8.9 g, 96% yield, m.p. 194-196° C.); MS m/e 187 (M−H)+.

reactant | Sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
reactant | methyl 2,3-difluoro-4-methoxybenzoate | 49.5 mmol, 10.0 g | FC1=C(C(=O)OC)C=CC(=C1F)OC | C9H8F2O3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 2,3-Difluoro-4-methoxybenzoic acid | 8.9 g, 96% yield | FC1=C(C(=O)O)C=CC(=C1F)OC | C8H6F2O3
